US04745169
(a) Synthesis of methyldichloro-p-methoxybenzylsilane
In a 1-liter three-neck flask equipped with a stirrer, reflux condenser, dropping funnel, and thermometer were placed 23.3 g (1.00 mol) of magnesium powder, 82.6 g (0.640 mol) of methyltrichlorosilane, and 200 ml of diethyl ether. The magnesium was activated with iodine and dibromoethane. The flask was cooled to 10° C. to 0° C. A mixture of 50.0 g (0.319 mol) of p-methoxybenzyl chloride and 300 ml of diethyl ether was added dropwise with stirring from the dropping funnel over 4 hours at 10° C. to 0° C. After aging at room temperature for 1 hour, excess magnesium and magnesium chloride were removed by suction filtration. The filtrate was distilled to give 48.8 g (0.208 mol) of the desired product in a yield of 65%.

reactant | magnesium | 1.00 mol, 23.3 g | [Mg] | Mg
reactant | methyltrichlorosilane | 0.640 mol, 82.6 g | C[Si](Cl)(Cl)Cl | CH3Cl3Si
reactant | iodine | II | I2
reactant | dibromoethane | BrC(C)Br | C2H4Br2
reactant | p-methoxybenzyl chloride | 0.319 mol, 50.0 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | methyldichloro-p-methoxybenzylsilane | 0.208 mol, 48.8 g, yield of 65% | C[Si](CC1=CC=C(C=C1)OC)(Cl)Cl | C9H12Cl2OSi
